US07915424B2
5-Phenylethynyl-thionicotinamide
Add Lawesson's Reagent, [2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphate -2,4-disulfide], (0.42 g, 1.03 mmol) to a suspension of 5-phenylethynyl-nicotinamide (0.12 g, 0.52 mmol) in toluene (3 mL) and stir for 48 h. Concentrate the reaction mixture and purify the residue by silica gel chromatography, eluting with 10:90 to 60:40 with ethyl acetate:hexanes, to give the title compound as a pale yellow solid (0.05 g, 40%).

reactant | Lawesson's Reagent | 1.03 mmol, 0.42 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 5-phenylethynyl-nicotinamide | 0.52 mmol, 0.12 g | C1(=CC=CC=C1)C#CC=1C=NC=C(C(=O)N)C1 | C14H10N2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Phenylethynyl-thionicotinamide | 0.05 g, 40% | C1(=CC=CC=C1)C#CC=1C=NC=C(C(=S)N)C1 | C14H10N2S
